US09284286B2
To a stirred solution of 1-(3-bromo-1,1-difluoro-propyl)-4-fluoro-benzene (synthesized according to the methods described in sections a) to e) of example 1) (0.25 g, 1.2 mmol) in dry DMF (1 ml) is added potassium thioacetate (0.41 g, 3.60 mmol) at RT. The reaction mixture is heated at 60° C. for 1.5 h. After completion of the reaction, the mixture is diluted with water (30 ml) and extracted with EtOAc (3×30 ml). The organic layer is washed with water (30 ml), brine (30 ml), dried over anhydrous sodium sulfate and evaporated to get the crude product, which is purified by column chromatography (silica gel, 1% EtOAc/hexane) to yield ethanethioic acid S-[3,3-difluoro-3-(4-fluorophenyl)-propyl]ester (0.26 g, 1.05 mmol, 88%).

reactant | 1-(3-bromo-1,1-difluoro-propyl)-4-fluoro-benzene | BrCCC(F)(F)C1=CC=C(C=C1)F | C9H8BrF3
reactant | potassium thioacetate | 3.60 mmol, 0.41 g | C(C)(=S)[O-].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | ethanethioic acid S-[3,3-difluoro-3-(4-fluorophenyl)-propyl]ester | 1.05 mmol, 0.26 g, 88% | FC(CCSC(C)=O)(C1=CC=C(C=C1)F)F | C11H11F3OS
